US07635684B2
3-(β-D-Glucopyranosyloxy)-4-[(4-{3-[2-{[4-(2-hydroxyethyl)-piperazin-1-yl]carbonyl}-1,1-di(methyl)ethylamino]propoxy}-2-methylphenyl)methyl]-5-isopropyl-1H-pyrazole
A mixture of 4-{[4-(3-chloropropoxy)-2-methylphenyl]-methyl}-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (1 g) and sodium iodide (0.27 g) in acetonitrile (5 mL) was heated for reflux for 10 hours. After cooling to 60° C., to the reaction mixture was added a solution of benzyl 3-amino-3-methylbutyrate (0.31 g) in 2-propanol (5 mL), and the mixture was stirred at 55° C. for 6 days. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in ethyl acetate-water. The organic layer was separated. The organic layer was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/2-dichloromethane/methanol=20/1) to give 4-[(4-{3-[2-benzyloxycarbonyl-1,1-di(methyl)ethylamino]propoxy}-2-methylphenyl)methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.63 g). This material was dissolved in methanol (5 mL). To the solution was added 10% palladium-carbon powder (65 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere overnight. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure to give 4-[(4-{3-[2-carboxy-1,1-di(methyl)ethylamino]propoxy}-2-methylphenyl)methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.52 g). To a solution of 4-[(4-{3-[2-carboxy-1,1-di(methyl)ethylamino]propoxy}-2-methylphenyl)methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.1 g) in N,N-dimethylformamide (2 mL) were added 1-(2-hydroxyethyl)piperazine (19 mg), 1-hydroxybenzotriazole (17 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (43 mg) and triethylamine (0.062 mL), and the mixture was stirred at room temperature for 20 hours. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was dissolved in methanol (3 mL). To the solution was added sodium methoxide (28% methanol solution, 0.1 mL), and the mixture was stirred at 50° C. overnight. The reaction mixture was concentrated under reduced pressure, and the residue was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol) and preparative reverse phase column chromatography (Shiseido CAPCELL PAK UG120 ODS, 5 μm, 120 Å, 20×50 mm, flow rate 30 mL/minute linear gradient, water/methanol=90/10-10/90) successively to give the title compound (13 mg).

reactant | 4-[(4-{3-[2-carboxy-1,1-di(methyl)ethylamino]propoxy}-2-methylphenyl)methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.1 g | C(=O)(O)CC(C)(C)NCCCOC1=CC(=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O)C | C48H75N3O13
reactant | 1-(2-hydroxyethyl)piperazine | 19 mg | OCCN1CCNCC1 | C6H14N2O
reactant | 1-hydroxybenzotriazole | 17 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 43 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 0.062 mL | C(C)N(CC)CC | C6H15N
product | 3-(β-D-Glucopyranosyloxy)-4-[(4-{3-[2-{[4-(2-hydroxyethyl)-piperazin-1-yl]carbonyl}-1,1-di(methyl)ethylamino]propoxy}-2-methylphenyl)methyl]-5-isopropyl-1H-pyrazole | 13 mg | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCCNC(CC(=O)N1CCN(CC1)CCO)(C)C)C)C(C)C | C34H55N5O9
